US07192982B2
3-(2-Chloro-4-hydroxy-phenyl)-2-methoxy-propionic acid ethyl ester
3-(4-Benzyloxy-2-chloro-phenyl)-2-methoxy-propionic acid ethyl ester in ethyl acetate was treated with Pd(C) and H2 under balloon pressure. Then filtered through celite and concentrated to give the title compound.

reactant | 3-(4-Benzyloxy-2-chloro-phenyl)-2-methoxy-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)OCC1=CC=CC=C1)Cl)OC)=O | C19H21ClO4
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(2-Chloro-4-hydroxy-phenyl)-2-methoxy-propionic acid ethyl ester | C(C)OC(C(CC1=C(C=C(C=C1)O)Cl)OC)=O | C12H15ClO4
